US05705499
b) 8-Benzyl-5,11-dihydro-11-ethyl-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one
To a solution of 5,11-dihydro-11-ethyl-8-iodo-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one (0.3 g, 0.79 mmol), bis(triphenylphosphine)palladium(II) chloride (18 mg, 0.03 mmol), and 2,6-di-tert-butyl-4-methylphenol (1 crystal) in 5 mL of N,N-dimethylformamide was added benzyltributylstannane (0.36 g, 0.94 mmol). The resultant reaction mixture was heated at 100° C. under argon for 5 hours. An aqueous solution of potassium fluoride was added and the mixture was stirred for 5 hours. The product was extracted with dichloromethane and purified by flash chromatography, eluting with ethyl acetate/dichloromethane, to give 20 mg of the title compound as an oil.

reactant | 5,11-dihydro-11-ethyl-8-iodo-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 0.79 mmol, 0.3 g | C(C)N1C2=C(N(C(C3=C1N=CC(=C3)I)=O)C)C=CC=N2 | C14H13IN4O
reactant | 2,6-di-tert-butyl-4-methylphenol | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
reactant | benzyltributylstannane | 0.94 mmol, 0.36 g | C(C1=CC=CC=C1)[Sn](CCCC)(CCCC)CCCC
reactant | potassium fluoride | [F-].[K+]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.03 mmol, 18 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 8-Benzyl-5,11-dihydro-11-ethyl-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 20 mg | C(C1=CC=CC=C1)C1=CC2=C(N(C3=C(N(C2=O)C)C=CC=N3)CC)N=C1 | C21H20N4O
